US08557809B2
Step D: Preparation of (E)-8-(tert-butyldimethylsilyloxy)-2-((2-(4-(2-methoxyethoxy)pyridin-2-yl)hydrazono)methyl)quinoline
2-Hydrazinyl-4-(2-methoxyethoxy)pyridine (0.076 g, 0.415 mmol) and 8-(tert-butyldimethylsilyloxy) quinoline-2-carbaldehyde (0.119 g, 0.415 mmol) were heated to reflux in EtOH (2 mL) for 16 hours. After cooling to ambient temperature the reaction mixture was filtered and washed with EtOH to provide 105 mg (56%) of desired product as an orange solid.

reactant | 2-Hydrazinyl-4-(2-methoxyethoxy)pyridine | 0.415 mmol, 0.076 g | N(N)C1=NC=CC(=C1)OCCOC | C8H13N3O2
reactant | 8-(tert-butyldimethylsilyloxy) quinoline-2-carbaldehyde | 0.415 mmol, 0.119 g | [Si](C)(C)(C(C)(C)C)OC=1C=CC=C2C=CC(=NC12)C=O | C16H21NO2Si
solvent | EtOH | 2 mL | CCO | C2H6O
product | (E)-8-(tert-butyldimethylsilyloxy)-2-((2-(4-(2-methoxyethoxy)pyridin-2-yl)hydrazono)methyl)quinoline | 105 mg, 56% | [Si](C)(C)(C(C)(C)C)OC=1C=CC=C2C=CC(=NC12)/C=N/NC1=NC=CC(=C1)OCCOC | C24H32N4O3Si
